US06392089B1
Methyltriflate (1 mL, 8.84 mmol) was added dropwise to a solution of (0.959 g, 5.92 mmol) carbonyl diimidazole dissolved in 20 ml nitromethane. The solution was kept at about 0° C. during the addition. The solution was then warmed to room temperature and was allowed to stir for 1 h. The solution was then transferred to a flask containing freshly azeotroped (from benzene) 0.647 g (5.303 mmol) phenacyl alcohol. The resulting mixture was allowed to stir for 2 h at room temperature to form the phenacyl carbonyl-N-methylimidazole (not isolated or characterized). Freshly azotroped isopropyl alcohol (5.92 mmol) was then added and the reaction mixture was stirred overnight. The solvent was removed by vacuum distillation and the product was purified using silica gel flash chromatography with 80% hexane and 20% ethyl acetate. Yield 1.032 g (88%) from 0.715 g phenacyl alcohol, yellow oil; 1H NMR (CDCl3, 400 MHz) δ3.87 (s, 3H), 5.37 (s, 2H), 7.46-7.62 (m, 3H), 7.92 (d, J=6, 2H); 13C NMR (CDCl3, 110 MHz) δ191.9, 154.2, 133.8, 128.7, 127.5, 72.6, 68.2, 21.5; EI-MS, m/z (rel. intensity) 222 (M+, 1), 163 (27), 118 (32), 105 (100), 91 (60), 77 (66), 65 (13), 50 (44).

reactant | Methyltriflate | 8.84 mmol, 1 mL | COS(=O)(=O)C(F)(F)F | C2H3F3O3S
reactant | carbonyl diimidazole | 5.92 mmol, 0.959 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | phenacyl alcohol | 5.303 mmol, 0.647 g | C(C(=O)C1=CC=CC=C1)O | C8H8O2
solvent | nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
product | phenacyl carbonyl-N-methylimidazole | C(C(=O)C1=CC=CC=C1)C(=O)C=1N(C=CN1)C | C13H12N2O2
